Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]1([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],0.08569674623870001
[H:1][C:2]([H:3])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.88366678443
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7],1.90865689251
[C:1]#[C:2][O:3][O:4]>>[C:1]#[C:2].[O:3]=[O:4],2.25124159393
[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.4228764615400005
[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.38286506654
[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-0.6200495220000001
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-2.0336539199200003
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])#[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-1.76226380808
[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-0.98043409281
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9].[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],-3.5427952259800004
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-7.56519301293
[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.45002729194
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:11]([H:12])[H:13].[H:10]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.08211609164
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],7.329426715479999
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.8211291865
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.584369265069999
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.1746193768
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3],4.89428595809
[C:1]([C:2]([H:3])([H:4])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14])([H:6])[H:7].[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-3.942565772230002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12][H:13],5.13013067252
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:14]([H:15])([H:16])[H:17],4.08226620018
[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.71749210622
[H:1][C:2]#[C:3][C:4]([H:5])[O:7][C:8][O:9][H:10].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10],-3.81308383127
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[C:3]([H:4])([H:5])[H:6],3.5384424713
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.7442798150300005
[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.39949168821
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:3].[O:1]=[C:2][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],3.98405189167
